US08802670B2
Reaction between 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde and 1-methyl-4-(methylamino)piperidine using procedure C yielded (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-(1-methyl-piperidin-4-yl)-amine. This compound was subjected to procedure A to yield the desired final compound which was purified using flash chromatography.

reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | 1-methyl-4-(methylamino)piperidine | CN1CCC(CC1)NC | C7H16N2
product | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-(1-methyl-piperidin-4-yl)-amine | ClC=1N=C(C2=C(N1)C=C(S2)CN(C2CCN(CC2)C)C)N2CCOCC2 | C18H26ClN5OS
